2114-04-11 07:54:00 Physician Resident Progress Note
Chief Complaint: Cough Syrup Overdose
   24 Hour Events:
   -Code purple called at noon, as patient attempted to elope, and made it
   as far [**Location (un) 2836**].  He required a security guard overnight
   -Psych consulted and is recommending a section 12 after reviewing his
   medical record (repeated admissions for OD, and history of violence
   etc) and a commitment to an inpatient psychiatric hospital.
   -LFTs wnl
   -CK 204
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2114-4-10**] 11:10 AM
   Diazepam (Valium) - [**2114-4-10**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-4-11**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 75 (72 - 107) bpm
   BP: 122/78(89) {122/76(29) - 149/92(103)} mmHg
   RR: 21 (18 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  2,080 mL
                  PO:
                                                                  1,080 mL
                  TF:
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                      0 mL
   Urine:
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,130 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: No(t) Normal), (S2: No(t) Normal), No(t) S3, No(t)
   S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   241 K/uL
   16.3 g/dL
   96 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.3 mEq/L
   8 mg/dL
   102 mEq/L
   138 mEq/L
   47.3 %
   11.9 K/uL
        [image002.jpg]
                             [**2114-4-10**]  03:43 PM
                             [**2114-4-11**]  05:24 AM
   WBC
   17.5
   11.9
   Hct
   42.5
   47.3
   Plt
   243
   241
   Cr
   0.9
   0.9
   Glucose
   130
   96
   Other labs: Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR: IMPRESSION: No evidence of acute cardiopulmonary process.
   Assessment and Plan
   30 yo M with PMH of schizoaffective disorder who presents after
   drinking 3 bottles of robitussin to "get high." He has a presumed
   anticholinergic overdose given his clinical picture of low fever, dry
   axilla, tachycardia, agitation, dilated pupils.  In addition, he was
   given physostigmine in the ED with reported good response. The half
   life of physostigmine is 15 mins. This medication can be repeated x1 if
   needed. DDx also includes infection, uremia, head trauma. He has no
   signs of infection with a negative U/A and clear CXR. Meningitis is
   always on the ddx but given the history of ingestion, lack of headache
   or neck stiffness, overdose is more likely.
   .
   # anticholinergic toxicity: No ectopy on telemetry, and no QRS widening
   - QT prolongation on EKG from yesterday
   -use haldol benzos (diazepam) for agitation as this will not affect
   cardiac conduction and other meds will -> can safely use haldol at this
   time given nml eKG for > 24 hours.
   - CK mildly elevated.
   -rest of tox screens were negative including acetaminophen and
   salicylates which are common co-ingestions
   -appreciate toxicology consult in ED- no further rec's
   -consider head CT to rule out other cause of agitation such as bleed or
   mass - currently calm and without complaints so not needed at this
   time.
   -denies suicidal ideations- on 1:1 sitter, section 12 -- cannot leave
   AMA.
   -CIWA scale give history of alcohol intake although he denies use in
   the last day and tox screen was negative. Can likely discontinue this
   soon.
   -psychiatry consult and SW consult
   .
   #Psych: will need inpatient psych admission on discharge from
   hospital.  Schizoaffective vs. Bipolar disorder.
   - haldol PRN for agitation
   - Start screening for dual diagnosis centers
   .
   #Leukocytosis: Likely leukemoid reaction [**12-23**] to stress.  Does c/o URI
   symptoms x3 days.  No localizing source for infection - negative Ua.
   Normalizing today.
   .
   # tobacco abuse: smoking cessation counseling
   .
   # ?alcohol abuse: SW consult, thiamine, folic acid, MVI
   .
   # FEN: regular diet.  NS for IVF given clinically dry.
   .
   # PPX: heparin SQ for DVT ppx, bowel regimen prn; 1:1 sitter
   .
   # code: presumed full
   .
   # dispo: ICU monitoring for now but likely call out later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-4-10**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2114-04-11 13:12:00 Physician Attending Progress Note
Chief Complaint: anticholinergic toxicity
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  30 yo M with schizoaffective d/o, frequent ed visits with OD
   (dextromethorphan), prior suicide attempts, found wondering  in street
   with altered MS.  Reports he was trying to "get high" and  drank 3
   bottles of Robitussin. Denied SI.
   24 Hour Events:
   Code purple called
 ran outside [**Location (un) 2838**]
   Psych c/s
 section 12
 transferring to inpt psych today
                                            History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2114-4-10**] 07:54 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-4-11**] 01:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 75 (75 - 107) bpm
   BP: 122/78(89) {122/78(29) - 149/86(100)} mmHg
   RR: 21 (20 - 38) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
                  Total In:
                                                                  2,080 mL
                                                                    720 mL
   PO:
                                                                  1,080 mL
                                                                    720 mL
   TF:
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                      0 mL
   Urine:
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,130 mL
                                                                    720 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement:purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   normal
   Labs / Radiology
   16.3 g/dL
   241 K/uL
   96 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.3 mEq/L
   8 mg/dL
   102 mEq/L
   138 mEq/L
   47.3 %
   11.9 K/uL
        [image002.jpg]
                             [**2114-4-10**]  03:43 PM
                             [**2114-4-11**]  05:24 AM
   WBC
   17.5
   11.9
   Hct
   42.5
   47.3
   Plt
   243
   241
   Cr
   0.9
   0.9
   Glucose
   130
   96
   Other labs: Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Imaging: cxr--negative for acute process [**4-10**]
   Assessment and Plan
   33 yo M w/ schizoaffective d/o, etoh abuse, prior suicide attempts,
   prior drug od's, presents with clinical picture of anti-cholinergic
   toxicity after drinking 3 bottles of Robitussin (? PM) in attempt to
get high
   # anti-cholinergic toxicity--tox screen o/w neg
   Sx
s of anticholinergic tox now resolved
   Developed no ecg abnl
   cpk normalizing, lfts wnl
   # psych
pysch c/s qppreciated
 likely schizoaffective vs bipolar d/o
   Haldol for agitation (ok for use given resolution of anticholinergic
   toxicity)
   [**Hospital 2839**] transfer to psych for inpt admit
   1:1 sitter
   # leukocytosis
resolved, remains af
   # ETOH abuse--SW consult, continue thiamine, folic acid, MVI, CIWA
   # tob abuse
nicotine patch
   .
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:   not indicated
   Lines:
   18 Gauge - [**2114-4-10**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for transfer to floor to pysch
   Total time spent: 35 minutes

2114-04-12 12:24:00 Physician Attending Progress Note
Chief Complaint: anticholinergic toxicity
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  33 yo M w/ schizoaffective d/o, etoh abuse, prior suicide
   attempts, prior drug od's, presents with clinical picture of
   anti-cholinergic toxicity after drinking 3 bottles of Robitussin (? PM)
   in attempt to
get high
   24 Hour Events:
   agitation over night--> haldol this am X 1
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-4-12**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 81 (61 - 117) bpm
   BP: 107/69(77) {107/64(76) - 150/88(77)} mmHg
   RR: 27 (19 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,320 mL
                                                                  1,060 mL
   PO:
                                                                  1,320 mL
                                                                  1,060 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,100 mL
   Urine:
   1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,320 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, MM
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting,
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: normal
   Labs / Radiology
   16.3 g/dL
   241 K/uL
   96 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.3 mEq/L
   8 mg/dL
   102 mEq/L
   138 mEq/L
   47.3 %
   11.9 K/uL
        [image002.jpg]
                             [**2114-4-10**]  03:43 PM
                             [**2114-4-11**]  05:24 AM
   WBC
   17.5
   11.9
   Hct
   42.5
   47.3
   Plt
   243
   241
   Cr
   0.9
   0.9
   Glucose
   130
   96
   Other labs: Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: no new labs
   Assessment and Plan
   33 yo M w/ schizoaffective d/o, etoh abuse, prior suicide attempts,
   prior drug od's, presents with clinical picture of anti-cholinergic
   toxicity after drinking 3 bottles of Robitussin (? PM) in attempt to
get high
   # psych
pysch c/s appreciated
likely schizoaffective vs bipolar d/o
   Haldol for agitation (ok for use given resolution of anticholinergic
   toxicity)
   [**Hospital 2839**] transfer to psych for inpt admit
   Continue 1:1 sitter
   # anti-cholinergic toxicity
   Sx
s of anticholinergic tox now resolved
   Developed no ecg abnl
   # leukocytosis
resolved, remains af
   # ETOH abuse--SW consult, continue thiamine, folic acid, MVI, CIWA
   not required benzos
   # tob abuse
nicotine patch
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Comments: not indicated
   Lines:
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:  not indicated, eating
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :awaits transfer to [**Last Name (un) 2871**], if no bed available will transfer
   to medicine floor
   Total time spent: 35 minutes